US07452892B2
B. Preparation of 1,3-dibenzyl-5-bromo-6-chloropyrimidine-2,4(1H,3H)-dione
To a stirring solution of 5-bromo-6-chloropyrimidine-2,4(1H,3H)-dione (9.4 g, 41.7 mmol) in DMF (100 mL) at room temperature under argon was added K2CO3 (12.7 g, 91.8 mmol), followed by benzyl bromide (10.5 mL, 88.3 mmol). The reaction mixture was stirred at 75° C. for 1.5 h. After the reaction mixture was cooled to room temperature, water (100 mL) and EtOAc (150 mL) were added. The layers were separated. The organic layer was washed with water (50 mL×2), followed by saturated aqueous NaCl (50 mL), then dried (MgSO4) and concentrated at reduced pressure to obtain crude product. This crude product was passed through a bed of silica gel eluted with CH2Cl2 to obtain 16.5 g of the title compound as a white solid. HPLC/MS: retention time=3.818 min, [M+H]30 =405.

reactant | 5-bromo-6-chloropyrimidine-2,4(1H,3H)-dione | 41.7 mmol, 9.4 g | BrC=1C(NC(NC1Cl)=O)=O | C4H2BrClN2O2
reactant | K2CO3 | 91.8 mmol, 12.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 88.3 mmol, 10.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 1,3-dibenzyl-5-bromo-6-chloropyrimidine-2,4(1H,3H)-dione | 16.5 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1Cl)Br)=O)CC1=CC=CC=C1)=O | C18H14BrClN2O2
